US05288726
2-Chlorobenzyl cyclopropyl ketone
10 ml of anhydrous diethyl ether were added to 0.45 g (18.5 mmole) of metallic magnesium, and then a solution of 2.0 ml (15.4 mmole) of 2-chlorobenzyl bromide in 10 ml of diethyl ether was slowly added dropwise to the resulting mixture, whilst stirring; the mixture was then stirred at room temperature for one hour. The resulting solution was slowly added dropwise to a solution of 1.1 ml of cyclopropyl cyanide in 10 ml of diethyl ether over a period of 30 minutes, and then the mixture was stirred at room temperature for 2 hours. At the end of this time, a saturated aqueous solution of ammonium chloride was added to the reaction mixture, and the mixture was stirred at room temperature for 15 minutes. 200 ml of ethyl acetate were then added to the reaction mixture, and the organic layer was separated, washed with water, with a saturated aqueous solution of sodium hydrogencarbonate and with a saturated aqueous solution of sodium chloride, in that order, and dried over anhydrous sodium sulfate; the solvent was then removed by distillation under reduced pressure. The residue thus obtained was subjected to silica gel column chromatography, using a 9:1 by volume mixture of toluene and ethyl acetate as the eluent, to give 2.0 g of the title compound as a colorless oil.

reactant | magnesium | 18.5 mmole, 0.45 g | [Mg] | Mg
reactant | 2-chlorobenzyl bromide | 15.4 mmole, 2.0 ml | ClC1=C(CBr)C=CC=C1 | C7H6BrCl
reactant | cyclopropyl cyanide | 1.1 ml | C1(CC1)C#N | C4H5N
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | diethyl ether | 10 ml | C(C)OCC | C4H10O
reactant | diethyl ether | 10 ml | C(C)OCC | C4H10O
reactant | diethyl ether | 10 ml | C(C)OCC | C4H10O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | 2-Chlorobenzyl cyclopropyl ketone | 2.0 g | C1(CC1)C(=O)CC1=C(C=CC=C1)Cl | C11H11ClO
